US08975261B2
3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridine (LL2)
To a solution of 3-bromo-1,5-naphthyridin-2-ol (LL1) (1.5 g, 6.7 mmol) in THF (33.5 mL) at 0° C. was added triphenylphosphine (2.1 g, 8.0 mmol) and (1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methanol (S,S-DD3, ent2) (1.2 g, 6.7 mmol), followed by dropwise addition of DIAD (1.6 mL, 8 mmol). The reaction mixture was warmed to ambient temperature. After 10 minutes, the reaction mixture was concentrated and the resulting residue was purified by flash chromatography (20% to 100% EtOAc in hexanes) to afford the title compound as a yellow solid. 1H NMR (500 MHz, DMSO): δ 8.82 (d, J=4.2 Hz, 1 H), 8.67 (s, 1 H), 8.21 (d, J=8.5 Hz, 1 H), 8.13 (d, J=2.5 Hz, 1 H), 7.73 (dd, J=8.5, 4.2 Hz, 1 H), 7.26 (d, J=3.5 Hz, 2 H), 4.53 (d, J=7.0 Hz, 2 H), 3.78 (s, 3 H), 2.25 (dt, J=8.5, 4.6 Hz, 1 H), 1.87-1.81 (m, 1 H), 1.18 (dt, J=8.7, 4.5 Hz, 1 H), 1.13-1.07 (m, 1 H); LRMS m/z (M+H) 386.3 found, 386.2 required.

reactant | 3-bromo-1,5-naphthyridin-2-ol | 6.7 mmol, 1.5 g | BrC=1C(=NC2=CC=CN=C2C1)O | C8H5BrN2O
reactant | triphenylphosphine | 8.0 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 6.7 mmol, 1.2 g | CO | CH4O
reactant | DIAD | 8 mmol, 1.6 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | THF | 33.5 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridine | BrC=1C(=NC2=CC=CN=C2C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C18H16BrN3O2
